US09353081B2
[D] 8-Chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one
A mixture of 6-bromo-8-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one (0.23 g, 0.84 mmol), bis(pinacolato)diboron (0.255 g, 1.01 mmol), 1,1′-bis(diphenylphosphino)-ferrocene-dichloropalladium (II) (30.7 mg, 0.04 mmol), and potassium acetate (0.247 g, 2.52 mmol) in dioxane (5 mL) was heated in a microwave at 80° C. over night. After dilution with EtOAc, the organic layer was washed with water, dried over anhy. Na2SO4 and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 30% ethyl acetate in hexane) to afford the title product (0.17 g, 63% yield) as a white solid.

reactant | 6-bromo-8-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.84 mmol, 0.23 g | BrC=1C=C2CCC(N(C2=C(C1)Cl)C)=O | C10H9BrClNO
reactant | bis(pinacolato)diboron | 1.01 mmol, 0.255 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.52 mmol, 0.247 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene dichloropalladium (II) | 0.04 mmol, 30.7 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].Cl[Pd]Cl
product | 8-Chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.17 g, 63% yield | ClC=1C=C(C=C2CCC(N(C12)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
